US06967204B2
3-Cyclopentyl-3-oxo-propionic Acid Ethyl Ester.
Sodium pellets (3.1 g, 135 mmol) were dissolved in ethanol (100 ml) under nitrogen at room temperature and a solution of diethyloxalate (18.4 ml, 135 mmol) and 1-cyclopentylethanone (16.7 g, 149 mmol) was added dropwise at room temperature over 30 minutes. The reaction was diluted with ethanol (100 ml), heated to 60° C. and stirred at this temperature for 2 hours. After cooling to room temperature the reaction was poured onto ice-cold 2N HCl (200 ml) and extracted with diethylether (300 ml) and ethyl acetate (300 ml). The combined organic extracts were dried over MgSO4, concentrated under reduced pressure and the residue was purified by flash column chromatography on silica gel eluting with pentane:ethyl acetate (6:1, by volume) to give 3-cyclopentyl-3-oxo-propionc acid ethyl ester (23.8 g) as an orange oil. 1H NMR (400 MHz, CDCl3): δ=14.38-14.65 (1H, brs), 6.83 (1H, s), 4.30-4.39 (2H, quart), 2.82-2.92 (1H, quin), 1.83-1.96 (2H, m), 1.57-1.83 (6H, 2×m), 1.33-1.40 (3H, t) ppm. LRMS (electrospray): m/z [M−H]+ 211.

reactant | Sodium | [Na] | Na
reactant | diethyloxalate | 135 mmol, 18.4 ml | C(C)OC(C(=O)OCC)=O | C6H10O4
reactant | 1-cyclopentylethanone | 149 mmol, 16.7 g | C1(CCCC1)C(C)=O | C7H12O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-Cyclopentyl-3-oxo-propionic Acid Ethyl Ester | C(C)OC(CC(=O)C1CCCC1)=O | C10H16O3
